US08022063B2
[4′-Chloro-3-(1-phenyl-1H-pyrazole-4-carbonyl)biphenyl-4-yloxy]acetic acid.
Prepared from ethyl [4-bromo-2-(1-phenyl-1H-pyrazole-4-carbonyl)phenoxy]acetate and 4-chlorophenylboronic acid according to GP4: LC/MS (an10n8): Rt 3.08 min, m/z 432.5 [M−H]−.

reactant | ethyl [4-bromo-2-(1-phenyl-1H-pyrazole-4-carbonyl)phenoxy]acetate | BrC1=CC(=C(OCC(=O)OCC)C=C1)C(=O)C=1C=NN(C1)C1=CC=CC=C1 | C20H17BrN2O4
reactant | 4-chlorophenylboronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | [4′-Chloro-3-(1-phenyl-1H-pyrazole-4-carbonyl)biphenyl-4-yloxy]acetic acid | ClC1=CC=C(C=C1)C1=CC(=C(C=C1)OCC(=O)O)C(=O)C=1C=NN(C1)C1=CC=CC=C1 | C24H17ClN2O4
